US09102671B2
To a solution of 5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (X-3) (50 mg, 0.15 mmol) and DIEA (0.052 mL, 0.30 mmol) in THF (0.75 mL) under N2 was added DPPA (0.035 mL, 0.17 mmol) and the reaction was stirred overnight at room temperature. Benzyl alcohol (0.025 mL, 0.24 mmol) was added to the reaction and the mixture was heated to 65° C. for 3 days. Upon cooling to room temperature the reaction was partitioned with EtOAc and aqueous saturated NaHCO3. The organics were dried over Na2SO4, filtered, and concentrated. The crude product was purified by column chromatography on silica gel with an EtOAc/hexane gradient as eluant to yield benzyl (5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)carbamate (X-21). 1H NMR (400 MHz, CDCl3) δ 8.03 (d, J=8.2 Hz, 1 H), 7.78 (s, 1 H), 7.52-7.25 (m, 6 H), 7.01 (d, J=7.6 Hz, 1 H), 6.98-6.84 (m, 2 H), 6.13 (d, J=6.9 Hz, 2 H), 5.36 (d, J=52.9 Hz, 1 H), 5.20 (s, 2 H), 5.03-4.86 (m, 1 H), 4.17-3.93 (m, 1 H), 3.93-3.72 (m, 1 H), 2.92-2.73 (m, 1 H), 2.16-1.97 (m, 1 H). MS m/z 449.1 (M+1)+.

reactant | 5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.15 mmol, 50 mg | F[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2C(=O)O)C2=CC(=CC=C2)F | C18H15F2N3O2
reactant | DIEA | 0.30 mmol, 0.052 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 0.17 mmol, 0.035 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | Benzyl alcohol | 0.24 mmol, 0.025 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | THF | 0.75 mL | C1CCOC1 | C4H8O
product | benzyl (5-((2R,4S)-4-fluoro-2-(3-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridin-3-yl)carbamate | F[C@H]1C[C@@H](N(C1)C1=CC=2N(C=C1)N=CC2NC(OCC2=CC=CC=C2)=O)C2=CC(=CC=C2)F | C25H22F2N4O2
